US05183925
Under the conditions of example 2A, 3 g of 2-iodophenol in the presence of 8.9 g of cesium carbonate is reacted with 2.84 g of 5-bromovaleric acid ethyl ester, worked up, and 1.8 g of 5-(2-iodophenoxy)valeric acid ethyl ester with a boiling point of 210° C./0.4 mbar is obtained as a colorless oil.

reactant | 2-iodophenol | 3 g | IC1=C(C=CC=C1)O | C6H5IO
reactant | cesium carbonate | 8.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-bromovaleric acid ethyl ester | 2.84 g | C(C)OC(CCCCBr)=O | C7H13BrO2
product | 5-(2-iodophenoxy)valeric acid ethyl ester | 1.8 g | C(C)OC(CCCCOC1=C(C=CC=C1)I)=O | C13H17IO3
